US04590265
Preparation of Barium o-Nitrophenolate (Reagent A) Stock Solution
Heat 3 l. of distilled water in a 4-l. flask to 75° C. on a steam bath. Add 16.67 g. of barium hydroxide, [Ba(OH)2.8H2O] and 21.67 g. of o-nitrophenol. Stir vigorously for 1 hour at 75° C. and let stand overnight at room temperature. Decant to another flask, heat to 75° C., add 4.17 g. of o-nitrophenol, stir and let stand overnight at room temperature. Decant and filter on a Buchner funnel through Whatman No. 4 paper and adjust the filtrate to 3 l. with distilled water.

reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
solvent | water | O | H2O
product | Barium o-Nitrophenolate | [N+](=O)([O-])C1=C(C=CC=C1)[O-].[Ba+2].[N+](=O)([O-])C1=C(C=CC=C1)[O-] | InChI=1S/2C6H5NO3.Ba/c2*8-6-4-2-1-3-5(6)7(9)10;/h2*1-4,8H;/q;;+2/p-2
